*******************************************************
* Taiwan Semiconductor_
* SMBCJ36CA
* 1500W, 36V Transient Voltage Suppressor 
* Date: 2023-11-26
*******************************************************
*The model describes the characteristics of typical devices and is subject to change without notice. 		*
*SPICE model can be used for evaluating device performance, but it cannot reflect the real device 		*
*performance under any kind of conditions, nor to replace bread boarding for final verification. 		*
*TSC does not assume any warranty or liability whatever arising from their use. TSC does not assume 		*
*any warranty or liability for the values and functions of the SPICE model. The simulation results of 		*
*the SPICE model are to the best of our knowledge correct. However, users are fully responsible to verify	*
* and validate these results under the operating conditions and its application. TSC will not bear the 		*
*responsibility arising out of or in connection with any malfunction of the simulation model. In any kind 	*
*of cases, the current datasheet information is the design guideline and the only actual performance 		*
*specification. SPICE model provided by TSC is not warranted by TSC as completely and comprehensively 		*
*representing all the specifications and operating characteristics of the semiconductor product.		*
*
****************************************************************************************************************
.subckt SMBJ36CA 1 2
d1 11 1 SMBJ36A
d2 11 2 SMBJ36A
.MODEL SMBJ36A D
+ IS=77.854E-9
+ N=1.9716
+ RS=4.3406E-3
+ IKF=.70221
+ CJO=213.26E-12
+ M=.36462
+ VJ=.52236
+ ISR=10.010E-21
+ NR=4.9950
+ BV=40
+ IBV=1E-6
+ TT=2.4663E-6
.ends
*******************************************************
